US07897631B2
tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate (0.107 g, 0.387 mmol) was reacted with N-(2-azidoethyl)dodecanamide (0.104 g, 0.387 mmol) following the general click procedure to give tert-butyl 2-amino-4-(5-(1-(2-dodecanamidoethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate 1H NMR (300 MHz, CDCl3) δ 7.36 (s, 1H), δ 6.94 (s, 1H), δ 6.49 (s, 1H), δ 6.23 (s, 2H), δ 4.46 (t, 2H), δ 3.74 (q, 2H), δ 2.68 (t, 2H0, δ 2.34 (t, 2H), δ 2.16 (t, 2H), δ 1.54 (m, 13H), δ 1.47 (m, 2H), δ 1.24 (m, 18H), δ 0.87 (t, 3H) ppm; 13C NMR (75 MHz, CDCl3) δ 174.3, 150.4, 149.5, 148.3, 138.5, 121.9, 106.5, 84.9, 49.5, 39.5, 36.6, 34.1, 32.1, 29.8, 29.8, 29.7, 29.6, 29.5, 29.3, 28.9, 28.2, 28.1, 29.0, 26.9. 25.6, 22.9, 14.3 ppm; HRMS (ESI) calcd for C29H51N7O3 (M+) 545.4053. found 545.4053, which was subsequently deprotected to give N-(2-(4-(5-(2-amino-1H-imidazol-4-yl)pentyl)-1H-1,2,3-triazol-1-yl)ethyl)dodecanamide hydrochloride (0.155 g, 83% yield). 1H NMR (400 MHz, CD3OD) δ 8.31 (s, 1H), δ 6.49 (s, 1H), δ 4.63 (s, 2H), δ 3.97 (s, 2H), δ 2.81 (s, 2H), δ 2.51 (t, 2H), δ 2.51 (t, 2H), δ 2.14 (t, 2H), δ 1.76 (s, 2H), δ 1.67 (s, 2H), δ 1.51 (s, 2H), δ 1.44 (s, 2H), δ 1.26 (bs, 16H), δ 0.71 (s, 3H) ppm; 13C NMR (100 MHz, CD3OD) δ 175.6, 159.4, 147.3, 127.6, 108.5, 51.3, 48.6, 38.8, 35.8, 31.9, 29.6, 29.5, 29.4, 29.3, 29.2, 28.2, 28.1, 27.7, 24.8, 24.2, 23.9, 22.6, 22.5, 13.4, 13.3 ppm; HRMS (ESI) calcd for C24H43N7O (M+) 445.3429. found 445.3524.

reactant | tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate | 0.387 mmol, 0.107 g | NC=1N(C=C(N1)CCCCCC#C)C(=O)OC(C)(C)C | C15H23N3O2
reactant | N-(2-azidoethyl)dodecanamide | 0.387 mmol, 0.104 g | N(=[N+]=[N-])CCNC(CCCCCCCCCCC)=O | C14H28N4O
product | tert-butyl 2-amino-4-(5-(1-(2-dodecanamidoethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate | NC=1N(C=C(N1)CCCCCC=1N=NN(C1)CCNC(CCCCCCCCCCC)=O)C(=O)OC(C)(C)C | C29H51N7O3
